data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_282908_1,[C:1]([C:4]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:8])=[C:5]([H:15])[H:16])([O:6][H:10])([O:7][H:9])[H:11]>>[C:1]([C:4]([C:3]([C:2]([H:12])([H:13])[H:14])([O:6][H:10])[O:8][H:9])=[C:5]([H:15])[H:16])(=[O:7])[H:11],42.92915750001313
MR_112520_0,[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](/[N:7]=[C:6](\[N:4]([H:8])[H:9])[H:11])[H:10])([H:12])([H:13])[H:17]>>[C:1]([C:3]1([C:2]([H:14])([H:15])[H:16])[C:5]([H:10])=[N:7][C:6]1([N:4]([H:8])[H:9])[H:11])([H:12])([H:13])[H:17],60.57634000000917
MR_285221_2,[C:1]([C:2]([N:3]([H:9])[H:10])=[O:8])(/[C:5](=[N:6]\[C:4](=[N:7]\[H:11])[H:14])[H:15])([H:12])[H:13]>>[C:1](=[C:5](/[N:6]=[C:4](\[N:7]([C:2]([N:3]([H:9])[H:10])=[O:8])[H:11])[H:14])[H:15])([H:12])[H:13],38.79330500003974
MR_291475_0,[C:1]([N:3](/[C:4](=[N:6]/[C:2]([H:13])([H:14])[H:15])[H:9])/[N:5]=[N:7]\[H:8])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:4](\[N:6]([C:2]([H:13])([H:14])[H:15])/[N:5]=[N:7]\[H:8])[H:9])([H:10])([H:11])[H:12],45.37828999996478
MR_400987_0,[C:1]([N:4](/[C:5]([O:7][H:10])=[N:8]/[C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[O:9])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:5](\[O:7][H:10])[N:8]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[O:9])([H:11])([H:12])[H:13],31.95104499997953
MR_308248_1,[C:1]([O:5][H:9])([N:6]([C:2](=[O:3])[H:10])[O:4][H:8])=[O:7]>>[C:1]([O:3]/[C:2](=[N:6]/[O:4][H:8])[H:10])([O:5][H:9])=[O:7],47.21121749997408
MR_227783_1,[C:1]([N:3]([H:11])[H:12])(/[C:4](=[N:6]/[N:2]([H:9])[H:10])[H:13])([O:5][H:7])[H:8]>>[C:1](\[N:3]([H:11])[H:12])(=[C:4](/[N:6]([N:2]([H:9])[H:10])[O:5][H:7])[H:13])[H:8],56.16376000002106
MR_329562_0,[C:1]([N:5]([N:4]([C:2]([O:6][H:8])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])[H:9])(=[O:7])[H:10]>>[C:1]1([O:7][H:8])([H:10])[N:5]([H:9])[N:4]([C:3]([H:13])([H:14])[H:15])[C:2]([H:11])([H:12])[O:6]1,54.68223250001628
MR_366995_1,[C:1](\[N:2]([H:8])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])=[N:6]\[O:5][H:7]>>[C:1](\[N:2]([H:8])[H:9])([O:5][H:7])=[N:6]\[C:3](=[C:4]([H:11])[H:12])[H:10],69.08147500000865
MR_697637_1,[C:1](/[C:3](=[C:4](\[C:2]([H:15])([H:16])[H:17])[N:6]([H:11])[H:12])[N:5]([H:9])[H:10])([O:7][H:8])([H:13])[H:14]>>[C:1](=[C:3]([C@@:4]([C:2]([H:15])([H:16])[H:17])([N:6]([H:11])[H:12])[O:7][H:8])[N:5]([H:9])[H:10])([H:13])[H:14],51.2498075000147
MR_562192_1,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])(/[C:5]([N:6]([H:10])[H:11])=[C:7](/[C:4]([H:19])([H:20])[H:21])[H:12])[O:8][H:9]>>[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])=[C:5]([N:6]([H:10])[H:11])[C:7]([C:4]([H:19])([H:20])[H:21])([O:8][H:9])[H:12],64.80129749997161
MR_433931_0,[C:1]([C:2]([O:6]/[C:5](=[N:8]/[H:13])[H:18])([H:14])[H:15])([C:3]([O:7][H:9])([H:16])[H:17])([N:4]([H:11])[H:12])[H:10]>>[C:1](\[C:2]([O:6][C:5]([N:8]([H:13])[H:17])([H:10])[H:18])([H:14])[H:15])(=[C:3](\[O:7][H:9])[H:16])[N:4]([H:11])[H:12],69.21262249999856
MR_674666_0,[C:1](/[C:3](=[C:2]([O:4][H:8])/[N:6]=[N:7]\[H:10])[O:5][H:9])([H:11])([H:12])[H:13]>>[C:1]([C@:3]1([O:5][H:9])[C:2]([O:4][H:8])=[N:6][N:7]1[H:10])([H:11])([H:12])[H:13],39.08509250001643
MR_366991_1,[C:1](/[C:3]([N:2]([N:4]([H:10])[H:11])[C:5](=[C:6]([H:16])[H:17])[H:12])=[N:8]\[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]/[N:4]([H:10])[H:11])[N:8]([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:9])([H:13])([H:14])[H:15],62.2611775
MR_91136_2,[C:1]([N:5]([H:8])[H:9])([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C@@:1]1([N:5]([H:8])[H:9])([H:10])[C:4]([C:2]([H:13])([H:14])[H:15])([C:6]([C:3]([H:16])([H:17])[H:18])([H:11])[H:12])[O:7]1,63.384402499982
MR_511109_1,[C:1]([C:3]([H:18])([H:19])[H:20])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:10])(/[C:7](=[N:8]/[C:4]([N:6]([H:12])[H:13])=[O:9])[H:14])[H:11]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:7](\[N:8]([C:4]([N:6]([H:12])[H:13])=[O:9])[C:5]([C:2]([H:15])([H:16])[H:17])=[O:10])[H:14])[H:11],43.855974999991645
MR_110718_0,[C:1](/[C:6](=[C:5]([C:4](=[C:3](/[N:2]([H:7])[H:8])[H:9])\[H:10])/[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1([H:12])[C:3]([N:2]([H:7])[H:8])([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:13])([H:14])[H:15],60.55249499999803
MR_410182_1,[C:1]1([H:9])([H:10])[n:5]2[n:4][c:2]([N:3]([H:7])[H:8])[n:6]21>>[C:1]1([H:9])([H:10])[N:5]=[N:4][C:2]([N:3]([H:7])[H:8])=[N:6]1,15.359944999992337
MR_95522_1,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[N:4]([H:11])[H:12])([O:5][H:9])([O:6][H:8])[H:10]>>[C:1]1([O:6][H:8])([H:10])[C:3]([C:2]([H:13])([H:14])[H:15])([O:5][H:9])[N:7]1[N:4]([H:11])[H:12],70.9495424999649
MR_414417_0,[C:1]([N:2]([N:4][O:5])[H:7])([C:3](=[O:6])[H:10])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[N:2]([H:7])[C@@:3]1([O:6][N:4]=[O:5])[H:10],62.80961250000644
MR_306189_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:4]([C:3]([H:17])([H:18])[H:19])[H:9])([C:5]([N:7]([H:12])[H:13])=[O:8])[N:6]([H:10])[H:11]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[C:5]([N:4]([C:3]([H:17])([H:18])[H:19])[H:9])([N:7]([H:12])[H:13])[O:8]1,45.43978499998786
